US07964607B2
6-[(3S,4S)-1-(2-fluorobenzyl)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting sodium cyanoborohydride and 2-fluorobenzaldehyde provided the title compound. 400 MHz 1H NMR (CD3OD) δ 7.98 (s, 1H), 7.47-7.42 (m, 1H), 7.33-7.26 (m, 2H), 7.18-7.07 (m, 1H), 4.08-4.04 (m, 2H), 3.85 (s, 2H), 3.69-3.56 (m, 3H), 3.20-2.93 (m, 4H), 2.69-2.62 (m, 1H), 2.40-2.19 (m, 3H), 1.88-1.85 (m, 2H), 1.14 (d, J=6.6 Hz, 3H). MS: (M+H m/z 412.1).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
product | 6-[(3S,4S)-1-(2-fluorobenzyl)-4-methylpyrrolidin-3-yl]-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | FC1=C(CN2C[C@H]([C@@H](C2)C)C=2NC(C3=C(N2)N(N=C3)C3CCOCC3)=O)C=CC=C1 | C22H26FN5O2
